US07585885B2
Add 2-chloro-6-methoxy-isonicotinic acid methyl ester (5 g, 24.8 mmol), palladium acetate (4.157 g, 18.5 mmol), 1,4-bis(diphenylphosphino)butane (1.038 g, 2.43 mmol), ethanol (127 mL), triethylamine (18 mL, 129 mmol) with DMSO (150 mL) to a pressure vessel. Seal the pressure vessel and purge with nitrogen. Pressurize the reaction mixture with carbon monoxide (690 KPa), seal the vessel, agitate the reaction and heat to 80° C. for 19 h. Cool to room temperature, filter the reaction mixture through a filtering agent and concentrate. Dissolve the residue in water (200 mL) and extract with hexanes (3×150 mL) and concentrate to give 6-methoxypyridine-2,4-dicarboxylic acid 2-ethyl ester 4-methyl ester (3.5 g). Extract the aqueous layer with ethyl acetate (3×150 mL) and wash the combined ethyl acetate layers with water, aqueous sodium bicarbonate solution, saturated aqueous sodium chloride, dry (sodium sulfate), concentrate, and purify (silica gel chromatography, eluting with ethyl acetate and hexanes) to give additional title compound (2.1 g) (5.6 g, 95% combined yield).

reactant | 2-chloro-6-methoxy-isonicotinic acid methyl ester | 24.8 mmol, 5 g | COC(C1=CC(=NC(=C1)OC)Cl)=O | C8H8ClNO3
reactant | 1,4-bis(diphenylphosphino)butane | 2.43 mmol, 1.038 g | C1(=CC=CC=C1)P(CCCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C28H28P2
reactant | ethanol | 127 mL | C(C)O | C2H6O
reactant | triethylamine | 129 mmol, 18 mL | C(C)N(CC)CC | C6H15N
reactant | DMSO | 150 mL | CS(=O)C | C2H6OS
catalyst | palladium acetate | 18.5 mmol, 4.157 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 6-methoxypyridine-2,4-dicarboxylic acid 2-ethyl ester 4-methyl ester | 3.5 g | COC(=O)C1=CC(=NC(=C1)OC)C(=O)OCC | C11H13NO5
